US06943183B2
To a stirred solution of 2-oxo-2-pyridin-2-yl-O-(tetrahydro-2H-pyran-2-yl)ethanol (1.15 g, 0.00520 mol) in methanol at 0° C. is added sodium borohydride (0.195 g, 0.00515 mol) in portions. The reaction is stirred for 2.5 hours and rotary evaporated to dryness. The residue is dissolved in ethyl ether, washed with brine (3×), dried (Na2SO4), and rotary evaporated. The residue is purified by chromatography on silica gel (50 g, 230-400 mesh), eluting with hexanes-ethyl acetate (1:1) to give 0.84 g of (±)-1-pyridin-2-yl-2-(tetrahydro-2H-pyran-2-yloxy)-ethanol as a pale yellow oil. MS-APCI m/z 224 [M−H]+. 4. (±)-6-(2-Tetrahydro-2H-1-pyran-2-yloxy-1-(2-pyridyl)ethoxy)-5-(2-phenylethyl)-2,3,4-trihydronaphthalen-1-one

reactant | 2-oxo-2-pyridin-2-yl-O-(tetrahydro-2H-pyran-2-yl)ethanol | 0.00520 mol, 1.15 g | O=C(COC1OCCCC1)C1=NC=CC=C1 | C12H15NO3
reactant | sodium borohydride | 0.00515 mol, 0.195 g | [BH4-].[Na+]
solvent | methanol | CO | CH4O
product | (±)-1-pyridin-2-yl-2-(tetrahydro-2H-pyran-2-yloxy)-ethanol | 0.84 g | N1=C(C=CC=C1)C(COC1OCCCC1)O | C12H17NO3
